### PR TITLE
[Merged by Bors] - feat(GroupTheory/SpecificGroups/Cyclic): add Subgroup.isCyclic_iff_exists_zpowers_eq_top

### PR DESCRIPTION
**Pull request by mariainesdff**
We add a subgroup version of the lemma `isCyclic_iff_exists_zpowers_eq_top`.

Co-authored-by: Filippo A. E. Nuccio <filippo.nuccio@univ-st-etienne.fr>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 1]
```diff
@@ -111,7 +122,7 @@ theorem MonoidHom.map_cyclic [h : IsCyclic G] (σ : G →* G) :
 @[to_additive]
 lemma isCyclic_iff_exists_orderOf_eq_natCard [Finite α] :
     IsCyclic α ↔ ∃ g : α, orderOf g = Nat.card α := by
-  simp_rw [isCyclic_iff_exists_zpowers_eq_top, ← card_eq_iff_eq_top, Nat.card_zpowers]
+  simp_rw [_root_.isCyclic_iff_exists_zpowers_eq_top, ← card_eq_iff_eq_top, Nat.card_zpowers]
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:125]: Maybe instead you should make the new theorem protected?

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 2]
```diff
@@ -53,6 +53,17 @@ theorem isCyclic_iff_exists_zpowers_eq_top [Group α] : IsCyclic α ↔ ∃ g :
...
+@[to_additive]
+theorem Subgroup.isCyclic_iff_exists_zpowers_eq_top [Group α] (H : Subgroup α) :
+    IsCyclic H ↔ ∃ g : α, Subgroup.zpowers g = H := by
+  rw [_root_.isCyclic_iff_exists_zpowers_eq_top]
+  refine ⟨fun ⟨⟨k, k_mem⟩, hk⟩ ↦ ⟨k, ?_⟩, fun ⟨k, hk⟩ ↦ ⟨⟨k, zpowers_le.mp <| le_of_eq hk⟩, ?_⟩⟩
+  · simp [← range_subtype H, ← Subgroup.map_eq_range_iff.mpr, hk,
+      ← (coeSubtype H ▸ (H.subtype).map_zpowers ⟨k, k_mem⟩)]
+  · apply_fun Subgroup.map H.subtype using Subgroup.map_injective <| subtype_injective H
+    simp [(H.subtype).map_zpowers ⟨k, _⟩, coeSubtype, hk, Subgroup.map_eq_range_iff.mpr,
+      range_subtype]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:65]: Slight golf:
```suggestion
  simp_rw [← (map_injective H.subtype_injective).eq_iff, ← MonoidHom.range_eq_map,
    H.range_subtype, MonoidHom.map_zpowers, Subtype.exists, coeSubtype, exists_prop]
  exact exists_congr fun g ↦ and_iff_right_of_imp fun h ↦ h ▸ mem_zpowers g
```

**Review by tb65536 — APPROVED** [review]
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
